US06998406B2
5.1.: 9-Methylfluorene-9-carboxylic acid 3b
12.6 g (0.053 mol) of methyl 9-methylfluorene-9-carboxylate and 53 mL of 2 molar, aqueous sodium hydroxide solution are stirred in 120 mL of 1,4-dioxane for 24 hours at ambient temperature. The dioxane is distilled off, made up to a total volume of 300 mL with water, and extracted with diethyl ether. The aqueous phase is acidified with 3 molar aqueous HCl, crystallized, and filtered. Yield: 11.25 g of white crystals (95% of theoretical yield); melting point: 168° C.–169° C.

reactant | methyl 9-methylfluorene-9-carboxylate | 0.053 mol, 12.6 g | CC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)OC | C16H14O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | 1,4-dioxane | 120 mL | O1CCOCC1 | C4H8O2
product | 9-Methylfluorene-9-carboxylic acid | CC1(C2=CC=CC=C2C=2C=CC=CC12)C(=O)O | C15H12O2
